Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Penicillins / 
Tylenol
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Chest Tube Placement (___)

 
History of Present Illness:
Ms ___ is a ___ year old woman with a history of NASH
cirrhosis complicated by chylous pleural effusion (___),
hepatic encephalopathy, and esophageal varices, status post
banding, who presents with abnormal labs (concerning for ___,
hyponatremia) and reaccumulation of right-sided pleural 
effusion.
She went to her outpatient GI on ___ and was found to have
hyponatremia and a CXR showed reaccumulation of R-pleural
effusion, and she was told to present to the ___ ED. Patient
has developed progressive cough and dyspnea over the past 
several
days. Denies fever, chills, chest pain, abdominal pain, 
headache,
confusion, dizziness/lightheadedness, nausea, vomiting, 
diarrhea,
hematemesis, melena, hematochezia. She endorses worsening
bilateral pedal edema.

In the ED: Bedside U/S revealed no ascites pocket.

Initial vital signs were notable for:
97.4  101  121/54  20  96% RA 

Exam notable for: Tachycardia, no oxygen requirement

Labs were notable for:

125  92  34     
------------< 107 
5.2  21  1.4 

3.8 > 12.9/36.5 <  43 

___: 15.7  PTT: 25.0  INR: 1.5

AST: 63  ALT: 48  AP: 104  Tbili: 2.8  Alb: 3.8 
 
UA with 12 WBC and few bacteria

Studies performed include:
CHEST (PA & LAT)
Wet read:
Interval progression in size of moderate right pleural effusion.
Similar appearance of right midlung linear consolidation, likely
atelectasis. 

Patient was given: None

Consults: None

Vitals on transfer:
96  ___  97% RA 
 
Upon arrival to the floor, patient endorses mild dyspnea and
non-productive cough of ~1wk duration. Denies fevers, chills.
Denies chest pain. She endorses a 5lb weight gain over past 
week.
Reports strict adherence to low sodium, low fat diet, no missed
medication doses. She reports drinking ~1.5-2L water daily.
Denies melena, hematochezia, hematemesis. Denies abdominal pain,
bloating. Denies confusion, lethargy. Denies dysuria, urinary
frequency.

 
Past Medical History:
___ cirrhosis
Hepatic encephalopathy
Obesity
GERD
dysphagia
 
Social History:
___
Family History:
Mother - CHF, breast/colon cancer
Father - CHF
___ - 2 brothers (1 wheelchair bound, obese, DM. Other
healthy)
 
Physical Exam:
Admission
=========
VITALS: 98.1  107/68  102  18  96% RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Normal rate and rhythm. Normal S1 and S2. Grade ___
systolic ejection murmur heard loudest at base.
LUNGS: Decreased breath sounds at right base. No wheezes, 
rhonchi
or rales. No accessory muscle use.
ABDOMEN: Normal bowel sounds. Soft, non-distended. Mild
suprapubic tenderness to palpation without rebound or guarding.
No organomegaly. No fluid wave. No shifting dullness.
EXTREMITIES: No clubbing or cyanosis. 1+ pitting edema
bilaterally to mid shin. 2+ pedal pulses bilaterally.
NEUROLOGIC: AAOx3. Able to name days of the week backwards. No
asterixis. ___ strength throughout. Normal sensation.

Discharge
==========
___ ___ Temp: 98.4 PO BP: 98/61 L Lying HR: 83 RR: 18 O2
sat: 94% O2 delivery: Ra 
GENERAL: Older woman in NAD
HEENT: NCAT. PERRL, EOMI. Sclera anicteric. MMM.
NECK: No JVD.
CARDIAC: RRR. Normal S1 and S2. Grade ___ systolic murmur
LUNGS: Clear, trace crackles at right base
ABDOMEN: NT, nondistended.  No fluid wave. No shifting dullness.
EXTREMITIES: No clubbing or cyanosis. 1+ non-pitting edema in ___
NEUROLOGIC: AAOx3. 

 
Pertinent Results:
Admission
=========

___ 02:52PM BLOOD WBC-3.8* RBC-3.71* Hgb-12.9 Hct-36.5 
MCV-98 MCH-34.8* MCHC-35.3 RDW-13.0 RDWSD-46.3 Plt Ct-43*
___ 02:52PM BLOOD ___ PTT-25.0 ___
___ 02:52PM BLOOD Glucose-107* UreaN-34* Creat-1.4* Na-125* 
K-5.2 Cl-92* HCO3-21* AnGap-12
___ 02:52PM BLOOD ALT-48* AST-63* LD(LDH)-244 AlkPhos-104 
TotBili-2.8*
___ 07:22AM BLOOD Albumin-4.4 Calcium-9.3 Phos-3.3 Mg-2.3
___ 08:08AM BLOOD Triglyc-41 HDL-40* CHOL/HD-3.0 LDLcalc-71

Discharge
===========

___ 07:30AM BLOOD WBC-1.2* RBC-2.88* Hgb-10.0* Hct-28.7* 
MCV-100* MCH-34.7* MCHC-34.8 RDW-13.3 RDWSD-48.6* Plt Ct-40*
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Plt Ct-40*
___ 07:30AM BLOOD Glucose-102* UreaN-35* Creat-1.0 Na-138 
K-4.5 Cl-102 HCO3-20* AnGap-16
___ 07:30AM BLOOD ALT-29 AST-41* LD(LDH)-147 AlkPhos-89 
TotBili-1.6*
___ 07:30AM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.1 Mg-2.0

Studies
===========
___ CXR
Interval progression in size of moderate right pleural effusion 
with near 
complete collapse of the right middle and lower lobes. 

___ RUQ US
1. Cirrhotic liver with splenomegaly, trace ascites and large 
right pleural 
effusion.  No focal liver lesions identified. 
2. Patent portal veins with normal directional flow. 
3. Mild right hydronephrosis is unchanged going back to ___. 
  
___ TVUS
1. Mildly heterogeneous and thickened endometrium up to 14 mm 
with smooth 
outer margin.  This could represent hyperplasia, a polyp, or 
less likely 
endometrial cancer.  Consultation with a gynecologist is 
recommended and if 
biopsy is not performed, follow-up ultrasound in 3 months is 
recommended. 
2. Moderate volume free pelvic fluid. 

___ CT Chest
1.  Near complete resolution of right-sided pleural effusion 
status post 
placement of chest tube. 
2.  Small right pneumothorax has increased since ___. 
3.  Increased consolidation in the right middle lobe with air 
bronchograms, 
which is could represent residual pneumonia. 
4.  Improved aeration of the bilateral lower lobes with residual 
atelectasis 
in the right lower lobe. 
5.  Unchanged 5 mm pulmonary nodule in the left upper lobe.  
Please see 
recommendations below. 

___ CXR
Recurrent small right pleural effusion. No evidence of right 
pneumothorax.

 
Brief Hospital Course:
Ms ___ is a ___ F hx of NASH cirrhosis (c/b varices s/p 
banding, chylothorax,
hepatic encephalopathy), admitted for hyponatremia and worsening 
pleural effusion, and found to have recurrent hepatic 
chylothorax. This was treated with chest tube placement and 
drainage on ___. She was then restarted on diuretics and 
optimized her regimen based on renal function. 

=============
ACUTE ISSUES:
=============

# Pleural effusion
# Hepatic Chylothorax
Patient presented with pleural effusion, in the setting of 
recent admission in ___ for hepatic chylothorax. Chest tube 
placed on ___, with pleural fluid studies consistent with 
chylothorax (triglycerides of 150). Patient without any other 
obvious etiology for chylothorax, as she was without any history 
of recent surgery, underlying lymphoma, tuberculosis, or trauma. 
The effusion was drained on ___ with over a liter output, chest 
tube removed on ___. Patient was started and optimized on a 
diuretic regimen, which ultimately was furosemide 20mg qd and 
spironolactone 50mg qd. It was discussed with the patient should 
undergo TIPS procedure, and decided that prior to this procedure 
a lymphangiogram was warranted to ensure no other reason for 
chylous leakage. This will be arranged as an outpatient - but is 
tentatively scheduled for ___. She will continue on the 
diuretic regimen as above, and will continue on a low fat diet. 

# CAP
# Bronchiectasis
CT scan after pleural effusion drainage was concerning for a 
small right middle lobe pneumonia as well as bronchiectasis. It 
was treated with 5 day course of cefpodoxime 400 mg q12 hr and 
flagyl 500 mg. Interventional pulmonary recommended a 
bronchoscopy as a outpatient for further management of 
bronchiectasis. 

#Acutely decompensated NASH cirrhosis, resolved
MELD score of 27 on admission, with worsening hepatic 
hydrothorax and peripheral edema consistent with decompensated 
cirrhosis. She was continued on home rifaximin. She will be 
discharged on rifaximin and oral diuretics as above. She is 
being follow up with Liver Transplant on ___.

___
Creatinine initially up to 1.4 from baseline of 1.0, likely 
prerenal in the
setting of mild overdiuresis. Renal function improved after 
initially holding diuretic regimen. Diuretics were gradually 
restarted, and patient tolerated a regimen of Lasix 20 mg and 
spironolactone 50 mg daily without worsening renal function. Her 
discharge Creatinine was 1.0.

#Thrombocytopenia
#Leukopenia
Patient has chronic thrombocytopenia and leukopenia, likely ___ 
cirrhosis. Levels were stable at her baseline.

#Abnormal uterine bleeding
On review of systems, patient endorsed small amount of abnormal 
vaginal bleeding, seen by urology as outpatient, concerning for 
abnormal uterine bleeding. She received a transvaginal 
ultrasound, showing endometrial thickening consistent with 
endometrial hyperplasia, which will need a biopsy as an 
outpatient. 

===============
CHRONIC ISSUES:
===============
#GERD
Continued home omeprazole 20mg daily

#Hypothyroidism
Continued home levothyroxine 88mcg daily except ___

Transitional Issues:
====================
[ ] Will need to undergo lymphangiogram with ___ in the near 
future - tentatively scheduled for ___
[ ] Follow up Chem-7, CBC, and LFTs - to be obtained on 
___. 
[ ] Adjust Lasix/Spironolactone as needed depending on labs and 
respiratory symptoms
[ ] Follow up with IP for repeat bronchoscopy within ___ weeks 
given findings of bronchiectasis - IP to arrange appointment.
[ ] Needs to see a gynecologist to have further work up for 
abnormal uterine bleeding. She can either be referred to someone 
local by her PCP, or call ___ and set up an appointment 
with the resident gynecology clinic at ___. 

#CODE: Full, presumed
#CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN Cough 
2. Spironolactone 100 mg PO DAILY 
3. Rifaximin 550 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Levothyroxine Sodium 88 mcg PO 6X/WEEK (___) 
7. Vitamin B Complex 1 CAP PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN Cough  
4.  Levothyroxine Sodium 88 mcg PO 6X/WEEK (___)  
5.  Omeprazole 20 mg PO DAILY  
6.  Rifaximin 550 mg PO BID  
7.  Vitamin B Complex 1 CAP PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  
9.Outpatient Lab Work
ICD-9:
N17.9 (Acute Renal Failure)
K74.69 (Cirrhosis)

Chem 10 (Na, K, Cl HCO3, BUN, Cr, gluc, mg, phos, ca)
CBC (with diff)
LFTs (AST, ALT, Albumin, INR, AlkPhos, T Bili, LDH)

Please fax results to Dr. ___ Dr ___ at ___ liver 
center:
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Pleural Effusion
Chylothorax
Community acquire pneumonia
Bronchiectasis
Acute kidney injury
Hyponatremia

Secondary:
___ Cirrhosis
Thrombocytopenia
Leukopenia
NASH
GERD
Hypothyroidism
Abnormal Uterine Bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-You came to the hospital because you were short of breath

What did you receive in the hospital?  
-You had a reaccumulation of fluid in the base of the right lung
-A chest tube was placed that drained that fluid
-We treated you for a pneumonia
-We started new medications, called diuretics, which will help 
try to prevent or slow down reaccumulation of the fluid
-We tried to arrange for a lymphagiogram to see if there was a 
vessel that was leaking into your lungs - this is being 
scheduled for the near future

What should you do once you leave the hospital?  
-Continue to take your medications (as below)
-Be sure to follow-up with your doctors as listed below

___ wish you the best!  

Your ___ Care Team  

 
Followup Instructions:
___